US04529799
1-(5-Chloropyrid-2-yl)-1-(2,4-dichlorophenyl)-2-(1H-1,2,4-triazol-1-yl)ethyl bromide hydrochloride
1-(5-Chloropyrid-2-yl)-1-(2,4-dichlorophenyl)-2-(1H-1,2,4-triazol-1-yl)ethanol (0.55 g, 1.49 mmoles) was stirred in acetonitrile (20 ml) and thionyl bromide (0.4 g, 1.92 mmoles) was added. After 1 hr. at room temperature, a small amount of starting material remained (as shown by t.l.c.) and thus a further 0.1 g of thionyl bromide was added and the solution was stirred overnight at room temperature. The acetonitrile was then removed by evaporation under reduced pressure and the residue was basified with aqueous sodium bicarbonate solution and extracted with ethyl acetate (3×40 ml). The combined organic extracts were dried over magnesium sulfate and evaporated and the residue was flash chromatographed on silica (230-400 mesh), eluting with ethyl acetate:hexane (1:3, v:v) to give an oil which was dissolved in dry ether and treated with ethereal hydrogen chloride. The white solid which precipitated (0.23 g) was recrystallized from isopropanol/diisopropyl ether to give the title compound as white crystals, 0.112 g (16%), m.p. 130° -150° C.

reactant | 1-(5-Chloropyrid-2-yl)-1-(2,4-dichlorophenyl)-2-(1H-1,2,4-triazol-1-yl)ethanol | 1.49 mmoles, 0.55 g | ClC=1C=CC(=NC1)C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C15H11Cl3N4O
reactant | thionyl bromide | 1.92 mmoles, 0.4 g | S(=O)(Br)Br | Br2OS
reactant | thionyl bromide | 0.1 g | S(=O)(Br)Br | Br2OS
reactant | hydrogen chloride | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | 1-(5-Chloropyrid-2-yl)-1-(2,4-dichlorophenyl)-2-(1H-1,2,4-triazol-1-yl)ethyl bromide hydrochloride | Cl.ClC=1C=CC(=NC1)C(CN1N=CN=C1)(C1=C(C=C(C=C1)Cl)Cl)Br | InChI=1S/C15H10BrCl3N4.ClH/c16-15(7-23-9-20-8-22-23,14-4-2-11(18)6-21-14)12-3-1-10(17)5-13(12)19;/h1-6,8-9H,7H2;1H
